US07157488B2
N-(2-(7-Fluoro-1H-indol-3-yl)ethyl)-3-(2,2,3,3-tetrafluropropoxy)benzylamine hydrochloride
Add acetyl chloride (2.4 mL, 33.8 mmol) dropwise to anhydrous ethanol (50 mL) and stir the solution for 10 min at ambient temperature and add to a solution of N-(2-(7-fluoro-1H-indol-3-yl)ethyl)-3-(2,2,3,3-tetrafluoropropoxy)benzylamine (12.0 g, 30.1 mmol) in ethyl acetate. Concentrate the resulting solution under reduced pressure to give a yellow solid. Recrystallize the yellow solid from ethyl acetate/ethanol/diethyl ether to give the title compound: mp 142–143° C. MS(m/e): 399 (M+1), 397 (M−1). Calculated for C20H19F5N2O.HCl: Calcd: C, 55.24; H, 4.64; N, 6.44. Found: C, 55.44; H, 4.66; N, 6.46.

reactant | acetyl chloride | 33.8 mmol, 2.4 mL | C(C)(=O)Cl | C2H3ClO
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | N-(2-(7-fluoro-1H-indol-3-yl)ethyl)-3-(2,2,3,3-tetrafluoropropoxy)benzylamine | 30.1 mmol, 12.0 g | FC=1C=CC=C2C(=CNC12)CCNCC1=CC(=CC=C1)OCC(C(F)F)(F)F | C20H19F5N2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-(7-Fluoro-1H-indol-3-yl)ethyl)-3-(2,2,3,3-tetrafluropropoxy)benzylamine hydrochloride | Cl.FC=1C=CC=C2C(=CNC12)CCNCC1=CC(=CC=C1)OCC(C(F)F)(F)F | InChI=1S/C20H19F5N2O.ClH/c21-17-6-2-5-16-14(11-27-18(16)17)7-8-26-10-13-3-1-4-15(9-13)28-12-20(24,25)19(22)23;/h1-6,9,11,19,26-27H,7-8,10,12H2;1H
